Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ y/o with worsening shortness of breath for the last 3 days in 
the setting of missing one dose of prednisone during this time. 
He has severe COPD on 4L of home oxygen at baseline. He 
describes worsening shortness of breath with activity, and his 
wife activated EMS for respiratory distress after he became 
dyspneic trying to wave smoke away from a smoke detector. He 
reports that the last ___ days have brought more fatigue and 
sleeping through the day which is unlike him. No nausea, 
vomiting, or chest pain. Has chronic cough but no increase in 
sputum production.  
In the ED, vital signs were initially: 19:05 0 99.0 ___ He had difficulty speaking in full sentences. He received 
albuterol, atrovent, and 125mg IV solumedrol.  

 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. ___ Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___

 
Physical Exam:
VITALS: 98.5 160/82 88 20 94% on 4L  
GENERAL: Adult male in NAD, sitting up in chair watching TV  
HEENT: PERRL, + diffuse psoriasis, MMM, EOMI, oropharynx clear  
NECK: No LAD, no thyromegally, supple, unable to appreciate JVD 
due to habitus  
CV: distant heart sounds, RRR, no m/g/r appreciated. No s3 or 
s4.  
LUNGS: Poor air movement, BS faintly heard at apices 
bilaterally, no crackles, no use of accessory muscles  
ABD: soft, NT/ND, +BS, unable to assess for HSM ___+ edema in bilateral lower extremities to ankles, left ___ 
with venous stasis changes over shin with some erythema, but not 
warm to touch, no sign of infection or weeping. + dry scaly skin 
on bilateral feet. radial and DP pulses palpable in bilateral 
extremities. no clubbing. no cyanosis noted.  
NEURO: CN II-XII intact, sensation intact throughout, strength 
___ in all 4 extremities.  

 
Pertinent Results:
CBC
___ 11:00AM BLOOD WBC-7.4 RBC-3.69* Hgb-10.8* Hct-34.4* 
MCV-93 MCH-29.2 MCHC-31.3 RDW-14.2 Plt ___
___ 07:47AM BLOOD WBC-6.7 RBC-3.54* Hgb-9.9* Hct-32.3* 
MCV-92 MCH-27.9 MCHC-30.5* RDW-14.4 Plt ___
___ 06:10AM BLOOD WBC-7.7 RBC-3.30* Hgb-9.4* Hct-29.3* 
MCV-89 MCH-28.5 MCHC-32.1 RDW-14.7 Plt ___
___ 08:36PM BLOOD Neuts-75.5* Lymphs-17.5* Monos-5.5 
Eos-1.3 Baso-0.2
___ 07:47AM BLOOD ___ PTT-19.2* ___

CHEMISTRY
___ 11:00AM BLOOD Glucose-73 UreaN-20 Creat-0.7 Na-149* 
K-5.6* Cl-107 HCO3-30 AnGap-18
___ 06:10AM BLOOD Glucose-86 UreaN-48* Creat-1.1 Na-144 
K-4.3 Cl-98 HCO3-40* AnGap-10
___ 06:10AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.9

CARDIAC ENZYMEs
___ 08:36PM BLOOD cTropnT-0.01
___ 07:47AM BLOOD CK-MB-NotDone cTropnT-LESS THAN 
___ 08:36PM BLOOD CK(CPK)-72
___ 07:47AM BLOOD CK(CPK)-64

CHEST X-RAY ___: IMPRESSION: No acute cardiopulmonary 
process. Mild cardiomegaly and COPD, unchanged. 

CHEST X-RAY ___: FINDINGS: As compared to the previous 
radiograph, the size of the cardiac silhouette is unchanged. No 
evidence of newly appeared focal parenchymal opacities. No 
pleural effusions. No overhydration. No focal parenchymal 
opacities suggesting pneumonia. 

LOWER EXTREMITY DOPPLERS ___: Preliminary Findings - no 
evidence of DVT.
 
Brief Hospital Course:
# Dyspnea - Mr. ___ was admitted to the hospital for increased 
dyspnea with more fatigue over the 3 days preceding admission.  
He had no new oxygen requirements.  Chest x-ray in the ED was 
negative for an acute pulmonary process and recieved 125 mg IV 
Solumedrol in ED for presumed COPD exacerbation.  On admission 
to the floor, Mr. ___ was started on Prednisone 60mg PO daily. 
 No PCP prophylaxis was started.  Ipratropium was discontinued 
and patient was started on Spiriva as it was thought he would 
benefit from a long acting agent.  He recieved scheduled nebs 
q4hours.  Serial cardiac enzymes were negative for MI.  On 
hospital day 2, ___, Mr. ___ stated that he did not feel 
as well as the previous day.  Repeat Chest x-ray was negative.  
Bilateral ___ were obtained and showed no signs of DVT.  He 
was low probability for DVT and his negative ___ dopplers were 
felt to rule him out for PE.  He was started on 5-day course of 
Azithromycin due to report of increased cough.  Mr. ___ oxygen 
requirment remained at his baseline throughout admission.  On 
day of discharge, his breathing was at his baseline and he was 
requesting to go home.  Patient was discharged home on 
nebulizers, spiriva and prednisone taper.  He is to arrange 
follow-up with his PCP within one week of discharge.  He has a 
pre-arranged appointment with his pulmonologist within one week 
of discharge.

# Diabetes - Type II, on oral agents only as outpatient.  Mr. 
___ glucose was better controlled on his first day of 
admission, however glucose became elevated after high dose 
prednisone started.  On previous admissions, he has had poor 
glucose control with steroids. He was requiring approxamately 30 
units of Humalog on Day 1 of admission.  The day prior to 
discharge, oral metformin and glimepiride were restarted with 
his sliding scale.  Patient was discharged on his oral dibetes 
regimen and to start lantus at home.  He has previously required 
insulin at home and he was observed injecting insulin during his 
admission.  ___ is to visit Mr. ___ to help monitor his blood 
glucose levels and make changes as needed.

# CHF, chronic systolic - Mr. ___ has a history of CHF per 
chart review, however his LVEF is >55% on most previous 
echocardiogram.  He showed no evidence of volume overload.  
Cardiac enzymes were negative.  Continued Lasix for management 
of venous stasis.  Continued aspirin and Ace-inhibitor.

# HTN - Monitored vital signs closely and continued his 
amlodipine, lasix and ace-inhibitor during admission.  No 
medication changes were made.
  
# GERD - continued his PPI  

# Venous Stasis - Continued Lasix, monitored.  There were no 
signs of infection on exam and he did not require any wound care 
during the admission.

 
Medications on Admission:
Albuterol  
Atrovent  
Alendronate 70mg PO weekly  
Amlodipine 10mg PO daily  
Aspirin 325mg po daily  
- recently completed at___ 1500mg po daily  
Brimonidine 0.15% BID  
Calcium Carbonate 500mg po q8h  
Vitamin D 800 units daily  
Vitamin B-12 1,000mcg q monthly  
Ferrous Sulfate 325 mg Daily  
Advair 325-50mcg BID  
Furosemide 40mg PO daily (changed from 60 to 40 at rehab)  
Glimepiride 1mg po daily  
Lactulose PRN  
Latanoprost 0.005% drops  
Lisinopril 20mg po daily  
Magnesium oxide 400mg po daily  
Metformin 2000mg PO BID  
Pantoprazole 40mg PO q12h  
Prednisone 10mg PO qOD  
Senna 8.6mg PO daily  
Simvastatin 5mg PO daily  
Tamsulosin 0.4mg PO qHS 

 
Discharge Medications:
1. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q2H (every two hours) as 
needed for shortness of breath or wheezing.  
3. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).
Disp:*30 Cap(s)* Refills:*2*
4. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
6. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
7. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

8. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
10. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
11. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
12. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
14. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
15. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
16. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO Q 8H (Every 8 Hours).  
17. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
18. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation every four (4) hours.  
19. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  
20. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 
21. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
22. Glimepiride 1 mg Tablet Sig: One (1) Tablet PO qday ().  
23. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q8H 
(every 8 hours) as needed for constipation.  
24. Prednisone 10 mg Tablet Sig: 6 (six) Tablets PO once a day: 
6 tablets x 2 days, 4 tablets x 5 days, 3 tablets x 5 days, 2 
tablets x 5 days, 1.5 tablets x 5 days, 1 tablet x 5 days then 
resume prevoius dosing.
Disp:*71 Tablet(s)* Refills:*0*
25. Azithromycin 250 mg Tablet Sig: Two (2) Tablet PO Q24H 
(every 24 hours) for 3 days.
Disp:*6 Tablet(s)* Refills:*0*
26. Lantus 100 unit/mL Solution Sig: Seven (7) units 
Subcutaneous once a day: Please inject in the morning.  The 
dosing will need to be adjusted by your ___.
Disp:*1 vial* Refills:*0*
27. Insulin Syringe 0.3 mL 29 X 1  Syringe Sig: One (1)  
Miscellaneous once a day: use to dispense lantus.
Disp:*30 needles* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. COPD Exacerbation
2. Hypertension
3. Diabetes

 
Discharge Condition:
Hemodynamically stable.

 
Discharge Instructions:
You were admitted to the hospital due to shortness of breath.  
You chest x-ray showed no sign of infection.  You were given IV 
steroids then placed on high dose prednisone.  Your breathing 
improved while you were in the hospital.  You were also started 
on antibiotics in case you had an infection.  You are being 
discharged home with some modification in your medications.  
Please call your PCP on ___, to schedule a 
follow-up appointment.

It is important that you check your sugars 4 times a 
day--fasting, before lunch, before dinner, and at bedteim.  You 
will need to take Lantus 7 units subcutaneously in the morning.  
A ___ will come to your house to review your blood glucose 
levels and make adjustments to your lantus as needed.

CHANGES IN MEDICATION:
CHANGE Prednisone to 60 mg by mouth daily then taper as 
instructed
CHANGE Lasix to 60 mg by mouth daily
START Lantus 7 units subcutatneous every morning
START Spiriva 1 cap inhaled daily
STOP Ipratropium
Please take all other medications as previously prescribed.

If you experience worsening shortness of breath, change in 
amount of coughing or sputum production, chest pain, fever, 
confusion, pain with urination or any other symptom that 
concerns you, please contact your PCP or go to the nearest 
emergency room for evaluation.
 
Followup Instructions:
___